US05366987
Synthesis of 5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetic acid
When in the general procedure of Example 79 an appropriate amount of ethyl (±)-5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetate was substituted for ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate, the title compound was obtained, mp 39°-42° C.

reactant | ethyl (±)-5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetate | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)OCC)C(C)C | C20H38N4O2
reactant | ethyl (±)-5-decyl-α-phenyl-2H-tetrazole-2-acetate | C(CCCCCCCCC)C=1N=NN(N1)C(C(=O)OCC)C1=CC=CC=C1 | C21H32N4O2
product | 5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetic acid | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)O)C(C)C | C18H34N4O2
